US06759425B2
Preparation of 2-(4-carboxy-phenyl)-3H-benzoimidazole-5-carboxylic Acid:
A mixture of 2-(4-methoxycarbonyl-phenyl)-3H-benzoimidazole-5-carboxylic acid (4.1 g) in THF (15 mL) and water (18 mL) and LiOH (1.74 g) was stirred for 16 hours at room temperature and then mixed with hot water (100 mL) and charcoal. The mixture was filtered and the filtrate was diluted with ice and water (100 mL) and acidified with conc. HCl. The crude diacid was filtered, washed with water and ether and then recrystallized from THF and MeOH. Yield 3.3 g; TLC single spot [CH2Cl2—CH3OH (9:1)].

reactant | 2-(4-methoxycarbonyl-phenyl)-3H-benzoimidazole-5-carboxylic acid | 4.1 g | COC(=O)C1=CC=C(C=C1)C=1NC2=C(N1)C=CC(=C2)C(=O)O | C16H12N2O4
reactant | LiOH | 1.74 g | [Li+].[OH-]
reactant | charcoal | C | CH4
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | water | 18 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | 2-(4-carboxy-phenyl)-3H-benzoimidazole-5-carboxylic Acid | C(=O)(O)C1=CC=C(C=C1)C=1NC2=C(N1)C=CC(=C2)C(=O)O | C15H10N2O4
